US08048878B2
Synthesis of diethyl [(5S*,8aR*)-5-(4-fluorophenyl)-3-oxooctahydroindolizin-2-yl]phosphonate
A mixture of (5S*,8aR*)-5-(4-fluorophenyl)-2-iodohexahydroindolizin-3-one (120 mg) with triethyl phosphite (2 mL) was stirred at 120° C. for 14 hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure to obtain 123 mg of the title compound. The property value of the compound is as follows.

reactant | (5S*,8aR*)-5-(4-fluorophenyl)-2-iodohexahydroindolizin-3-one | 120 mg | FC1=CC=C(C=C1)[C@H]1N2C(C(C[C@H]2CCC1)I)=O | C14H15FINO
reactant | triethyl phosphite | 2 mL | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl [(5S*,8aR*)-5-(4-fluorophenyl)-3-oxooctahydroindolizin-2-yl]phosphonate | 123 mg | FC1=CC=C(C=C1)[C@H]1N2C(C(C[C@H]2CCC1)P(OCC)(OCC)=O)=O | C18H25FNO4P
